US04716241
After cooling, 100 ml of t-butanol was slowly added dropwise thereto to decompose excess sodium hydride, and then 1.0 l of water was added thereto. The reaction mixture was further heated for 2 hours under reflux to decompose excess dimethyl sulfate. After cooling, the resulting two layers were separated and the organic layer was washed with aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the residue was distilled under reduced pressure, whereby 59 g of 2,2,5,5-tetramethylcyclopentanone was obtained (b.p. 55° C./20 mmHg).

reactant | t-butanol | 100 ml | C(C)(C)(C)O | C4H10O
reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 1.0 l | O | H2O
product | 2,2,5,5-tetramethylcyclopentanone | 59 g | CC1(C(C(CC1)(C)C)=O)C | C9H16O
